US05081121
p-Ethylaniline (5.0 g) and diethyl ethoxymethylenemalonate (10.7 g) were reacted in the same manner as in Experimental Example 1 to give 3-ethoxycarbonyl-6-ethyl-4(1H)-quinolone (3.6 g). The compound (2.8 g) was N-ethylated with potassium carbonate (2.3 g) and ethyl iodide (2.1 g) in the same manner as in Experimental Example 9 to give 1,6-diethyl-3-ethoxycarbonyl-4(1H)-quinolone (compound 85, 1.55 g).

reactant | p-Ethylaniline | 5.0 g | C(C)C1=CC=C(N)C=C1 | C8H11N
reactant | diethyl ethoxymethylenemalonate | 10.7 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
product | 3-ethoxycarbonyl-6-ethyl-4(1H)-quinolone | 3.6 g | C(C)OC(=O)C1=CNC2=CC=C(C=C2C1=O)CC | C14H15NO3
